US07132539B2
Preparation of 2-(2-amino-3-methoxy-propionylamino)-3-naphthalen-2-yl-propionic acid methyl ester HCl (58):
2-(2-tert-butoxycarbonylamino-3-methoxy-propionylamino)-3-naphthalen-2-yl-propionic acid methyl ester, 57, (5.2 g, 12.1 mmol) is dissolved in 4M hydrogen chloride in dioxane (40 mL) and stirred at room temperature for 1 hour. 1,2-Dichloroethane (40 mL) is added. The solution is concentrated in vacuo to afford 4.43 g (quantitative yield) of the desired product.

reactant | 2-(2-tert-butoxycarbonylamino-3-methoxy-propionylamino)-3-naphthalen-2-yl-propionic acid methyl ester | COC(C(CC1=CC2=CC=CC=C2C=C1)NC(C(COC)NC(=O)OC(C)(C)C)=O)=O | C23H30N2O6
reactant | 1,2-Dichloroethane | 40 mL | ClCCCl | C2H4Cl2
solvent | hydrogen chloride | 4M | Cl | ClH
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 2-(2-amino-3-methoxy-propionylamino)-3-naphthalen-2-yl-propionic acid methyl ester HCl | 4.43 g, quantitative yield | Cl.COC(C(CC1=CC2=CC=CC=C2C=C1)NC(C(COC)N)=O)=O | InChI=1S/C18H22N2O4.ClH/c1-23-11-15(19)17(21)20-16(18(22)24-2)10-12-7-8-13-5-3-4-6-14(13)9-12;/h3-9,15-16H,10-11,19H2,1-2H3,(H,20,21);1H
